US07365085B2
a) N-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-N-methyl-carbamic acid tert-butyl ester
N-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-carbamic acid tert-butyl ester (1.05 g, 1.64 mmol) was dissolved in anhydrous DMF (10 mL) and cooled to 0° C. under argon. NaH (78.8 mg, 1.97 mmol, 60% dispersion in mineral oil) was added and the mixture stirred at 0° C. for 30 minutes. Methyl iodide (164 uL, 2.63 mmol) was added and the reaction was allowed to warm to room temperature at which point the solution was maintained for 18 hours. The reaction mixture was then poured into H2O and extracted twice with EtOAc. The combined EtOAc extracts were washed with saturated aqueous NaCl, dried over Na2SO4, filtered, and concentrated to a yellow oil which was further purified by silica gel chromatography (10 g Redisep column, silica, 40 um, 60 Å, 35 mL/min, A: hexanes, B: EtOAc, B: 0% for 5 min, B: 0% to 10% over 10 min; B: 10% for 10 min; B: 10% to 30% over 15 min; B: 30% for 10 min; detection at 214 nm) to give 1.05 g (1.63 mmol, 99%) of the title compound as a yellow oil. MS (ESI) 653.2

reactant | N-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-carbamic acid tert-butyl ester | 1.64 mmol, 1.05 g | C(C)(C)(C)OC(NC1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C36H38ClF3N2O3
reactant | NaH | 1.97 mmol, 78.8 mg | [H-].[Na+]
reactant | Methyl iodide | 2.63 mmol, 164 uL | CI | CH3I
reactant | H2O | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-N-methyl-carbamic acid tert-butyl ester | 1.63 mmol, 1.05 g, 99% | C(C)(C)(C)OC(N(C)C1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C37H40ClF3N2O3
